US07629294B2
7-(1,2-dimethylpropylamino)-5-methoxy-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxylic acid
At room temperature, 0.2 g (0.55 mmol) of methyl 7-(1,2-dimethylpropylamino)-5-methoxy-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxylate was mixed with a mixture of 5 ml of 1,4-dioxane and 2.5 ml (2.5 mmol) of a 1 N sodium hydroxide solution. The mixture was then stirred at 22° C. for 16 hours. 5 ml of water and 3 ml of 1 N hydrochloric acid were added to the reaction mixture. The precipitate formed was filtered off, washed with water and dried. This gave 0.2 g of 7-(1,2-dimethylpropylamino)-5-methoxy-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]-pyrimidine-3-carboxylic acid (logPs=3.65; content according to HPLC: 96%).

reactant | methyl 7-(1,2-dimethylpropylamino)-5-methoxy-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxylate | 0.55 mmol, 0.2 g | CC(C(C)C)NC1=C(C(=NC=2N1N=CC2C(=O)OC)OC)C=2SC=CC2C | C19H24N4O3S
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 3 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 7-(1,2-dimethylpropylamino)-5-methoxy-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxylic acid | CC(C(C)C)NC1=C(C(=NC=2N1N=CC2C(=O)O)OC)C=2SC=CC2C | C18H22N4O3S
